US08557830B2
A mixture of 2,2-difluorobenzo[d][1,3]dioxol-5-amine (64 mg, 371 mop, N-(3-(1H-pyrazolo[3,4-d]pyrimidin-4-yl)pyridin-2-yl)-1-chloro-6-methylisoquinolin-5-amine (120 mg, 309 μmol) and 2,2,2-trifluoroacetic acid (95 μl, 1238 μmol) in i-PrOH (4 ml) was heated in a microwave reactor at 150° C. for 40 min. The mixture was poured into MeOH (10 ml) and Et3N (0.25 ml) was added. Solvent was removed under vacuum and the product was purified by flash chromatography eluting with MeOH/DCM (1-5%) to give N5-(3-(1H-pyrazolo[3,4-d]pyrimidin-4-yl)pyridin-2-yl)-N1-(2,2-difluorobenzo[d][1,3]dioxol-5-yl)-6-methylisoquinoline-1,5-diamine. MS Found: (ESI pos. ion) m/z 525 (M+H+).

reactant | 2,2-difluorobenzo[d][1,3]dioxol-5-amine | FC1(OC2=C(O1)C=CC(=C2)N)F | C7H5F2NO2
reactant | N-(3-(1H-pyrazolo[3,4-d]pyrimidin-4-yl)pyridin-2-yl)-1-chloro-6-methylisoquinolin-5-amine | 309 μmol, 120 mg | N1N=CC=2C1=NC=NC2C=2C(=NC=CC2)NC=2C=1C=CN=C(C1C=CC2C)Cl | C20H14ClN7
reactant | 2,2,2-trifluoroacetic acid | 1238 μmol, 95 μl | FC(C(=O)O)(F)F | C2HF3O2
reactant | MeOH | 10 ml | CO | CH4O
solvent | i-PrOH | 4 ml | CC(C)O | C3H8O
solvent | Et3N | 0.25 ml | CCN(CC)CC | C6H15N
product | N5-(3-(1H-pyrazolo[3,4-d]pyrimidin-4-yl)pyridin-2-yl)-N1-(2,2-difluorobenzo[d][1,3]dioxol-5-yl)-6-methylisoquinoline-1,5-diamine | N1N=CC=2C1=NC=NC2C=2C(=NC=CC2)NC=2C=1C=CN=C(C1C=CC2C)NC2=CC1=C(OC(O1)(F)F)C=C2 | C27H18F2N8O2
